US07205314B2
2-Hydroxy-3-thieno[2,3-d]pyrimidin-4-yl-1H-indole-5-carboxylic acid methyl ester
Sodium tert-butoxide (40.3 mg, 0.42 mmol) and methyl 2-oxo-5-indolinecarboxylate (17.6 mg, 0.092 mmol) in N-methylpyrrolidinone (1 mL) under nitrogen atmosphere were stirred for 5 min at room temperature. A solution of 4-chlorothieno[2,3-d]pyrimidine (0.1 mL, 0.84 M, corresponding to 14.3 mg, 0.084 mmol) in N-methylpyrrolidinone was added and the reaction mixture was stirred at room temperature over night. The reaction mixture was diluted with water (20 mL) and acidified with hydrochloric acid (1 M) and extracted with ethyl acetate (2×15 mL). The combined organic layer was washed with brine, dried with sodium sulphate, filtered and concentrated. The crude product was triturated with methylene chloride to give 10 mg (36% yield) of the title compound as a bronze solid. MS (AP−) m/z 324 (M−1).

reactant | Sodium tert-butoxide | 0.42 mmol, 40.3 mg | CC(C)([O-])C.[Na+]
reactant | methyl 2-oxo-5-indolinecarboxylate | 0.092 mmol, 17.6 mg | O=C1NC2=CC=C(C=C2C1)C(=O)OC | C10H9NO3
reactant | 4-chlorothieno[2,3-d]pyrimidine | 0.084 mmol, 0.84 M, 0.1 mL, 14.3 mg | ClC=1C2=C(N=CN1)SC=C2 | C6H3ClN2S
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 20 mL | O | H2O
product | 2-Hydroxy-3-thieno[2,3-d]pyrimidin-4-yl-1H-indole-5-carboxylic acid methyl ester | 10 mg, 36% yield | COC(=O)C=1C=C2C(=C(NC2=CC1)O)C=1C2=C(N=CN1)SC=C2 | C16H11N3O3S
